US09290468B2
Step 2: N-(2,3-dihydroxypropoxy)-4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]oxazole-6-carboxamide
To a solution of N-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)-4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]oxazole-6-carboxamide (488 mg, 0.89 mmol) in CH2Cl2 (10 mL) was added trifluoroacetic acid (0.2 mL, 2.69 mmol). The mixture was stirred for 1 h and washed with saturated sodium bicarbonate (aq.). The aqueous layer was extracted by CH2Cl2 (10 mL×2). The combined organic layers were washed by water (10 mL) and brine (10 mL) sequentially, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by column chromatography on silica gel (CH2Cl2/MeOH, 50:1, v/v) to afford the desired product (white solid, 310 mg, 48% yield for two steps). 1H NMR (400 MHz, DMSO-d6): δ 11.80 (s, 1H), 8.96 (s, 1H), 8.03 (s, 1H), 7.87 (s, 1H), 7.53 (d, 1H), 7.28 (d, 1H), 6.40 (m, 1H), 4.84 (d, 1H), 4.60 (m, 1H), 3.87 (m, 1H), 3.72 (m, 2H), 3.36 (m, 2H). MS APCI (+) m/z: 527.8, [M+Na].

reactant | N-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)-4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]oxazole-6-carboxamide | 0.89 mmol, 488 mg | CC1(OCC(O1)CONC(=O)C1=CC2=C(N=CO2)C(=C1NC1=C(C=C(C=C1)I)F)F)C | C20H18F2IN3O5
reactant | trifluoroacetic acid | 2.69 mmol, 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(2,3-dihydroxypropoxy)-4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]oxazole-6-carboxamide | 310 mg, 48% yield | OC(CONC(=O)C1=CC2=C(N=CO2)C(=C1NC1=C(C=C(C=C1)I)F)F)CO | C17H14F2IN3O5
